US08168651B2
Methyl 5-chlorobenzo[c][2,6]naphthyridine-7-carboxylate (1.0 eq, 48 mg, 0.176 mmol) and 3-chloroaniline (3.0 eq, 60 ul, 0.56 mmol) were stirred under microwave heating at 120° C. in NMP (0.3 ml) for 10 minutes. Water was added and the solid isolated by filtration. Trituration in methanol and filtration afforded methyl 5-(3-chlorophenylamino)benzo[c][2,6]naphthyridine-7-carboxylate as a solid (29 mg, 45% yield). LCMS (ES): >85% pure, m/z 364 [M+1]+.

reactant | Methyl 5-chlorobenzo[c][2,6]naphthyridine-7-carboxylate | 0.176 mmol, 48 mg, 1.0 eq | ClC1=NC=2C(C3=CN=CC=C13)=CC=CC2C(=O)OC | C14H9ClN2O2
reactant | 3-chloroaniline | 0.56 mmol, 60 ul, 3.0 eq | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | Water | O | H2O
solvent | NMP | 0.3 ml | CN1CCCC1=O | C5H9NO
product | methyl 5-(3-chlorophenylamino)benzo[c][2,6]naphthyridine-7-carboxylate | 29 mg, 45% yield | ClC=1C=C(C=CC1)NC1=NC=2C(C3=CN=CC=C13)=CC=CC2C(=O)OC | C20H14ClN3O2
